US06953806B2
0.786 ml Diisopropyl-aethylamine, 0.619 g (2.53 mmol) 4-trifluoromethyl-benzene sulfochloride and 0.952 mg potassium carbonate (dissolved in the minimal amount of water) were added to a solution of 0.718 g (2.30 mmol) trans-[4-(5-bromo-pentyl)-cyclohexylmethyl]-methyl-amine hydrochloride in 15.0 ml of tetrahydrofuran kept at −10° C. The reaction mixture was then intensively stirred for 1 hour at −10° C. and for 1 hour at room temperature. It was subsequently evaporated, poured into 50 ml of an ice/water mixture and extracted 3 times with 50 ml of dichloromethane. The combined dichloromethane phases were dried over magnesium sulfate and evaporated under reduced pressure. The residue formed was chromatographed on silica gel with dichloromethane as the eluent giving 1.03 g (92.6%) trans-N-[4-(5-bromo-pentyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide as colorless amorphous solid, MS: 404 [(M−Br)+].

reactant | 4-trifluoromethyl-benzene sulfochloride | 2.53 mmol, 0.619 g | S(=O)(=O)(O)Cl.FC(C1=CC=CC=C1)(F)F
reactant | trans-[4-(5-bromo-pentyl)-cyclohexylmethyl]-methyl-amine hydrochloride | 2.30 mmol, 0.718 g | Cl.BrCCCCC[C@@H]1CC[C@H](CC1)CNC
solvent | water | O | H2O
solvent | tetrahydrofuran | 15.0 ml | O1CCCC1 | C4H8O
catalyst | potassium carbonate | 0.952 mg | C([O-])([O-])=O.[K+].[K+]
product | trans-N-[4-(5-bromo-pentyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 1.03 g, 92.6% | BrCCCCC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C20H29BrF3NO2S
